US07273865B2
6-Methoxy-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-nicotinamide
From 6-methoxynicotinic acid, HATU and N-methylmorpholine in THF, then treatment with 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine. ES-MS m/e (%): 402 (M+H+, 100).

reactant | 6-methoxynicotinic acid | COC1=NC=C(C(=O)O)C=C1 | C7H7NO3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)N | C11H14N4O2S
solvent | THF | C1CCOC1 | C4H8O
product | 6-Methoxy-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-nicotinamide | COC1=NC=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)N2CCOCC2)C=C1 | C18H19N5O4S
